US09167812B2
2-Tetrahydrofuroic Acid Dibutylamide
232 g (2 mols) of 2-tetrahydrofuroic acid, 387 g (3 mols) of dibutyl amine and 1,5 g of sodium hypophosphite, were introduced into a stirred reactor at room temperature. Reaction mixture was gradually heated up to 200° C., separating the reaction water and returning the excess of dibutyl amine into the reactor. Reaction was controlled by its acid value. Once the acid value was lower than 10 mg KOH/g, excess of dibutyl amide was distilled at 60-100° C. under vacuum.

reactant | 2-tetrahydrofuroic acid | 2 mols, 232 g | O1C(CCC1)C(=O)O | C5H8O3
reactant | dibutyl amine | 3 mols, 387 g | C(CCC)NCCCC | C8H19N
reactant | sodium hypophosphite | 1,5 g | [PH2](=O)[O-].[Na+]
reactant | KOH | 10 mg | [OH-].[K+]
reactant | dibutyl amide | C(CCC)[N-]CCCC
product | 2-Tetrahydrofuroic Acid Dibutylamide | C(CCC)N(C(=O)C1OCCC1)CCCC | C13H25NO2
